US08071588B2
A mixture of 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid (100 mg, 0.241 mmol), ({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amine 1-{3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methanamine (92 mg, 0.241 mmol), HBTU (110 mg, 0.289 mmol) and Et3N (0.101 mL, 0.722 mmol) in DCM was stirred at room temperature overnight. The crude mixture was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give crude residue. The crude product was purified by reverse phase hplc with a Gilson HPLC (acidic conditions: 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined, washed with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide as a solid (18 mg, 10.8%). LC-MS m/z 692 (M+H)+, 0.75 min (ret time).

reactant | 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid | 0.241 mmol, 100 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)O)CC | C21H29N5O4
reactant | ({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amine 1-{3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methanamine | 0.241 mmol, 92 mg | CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CN.CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CN | 2C20H26N2
reactant | HBTU | 0.289 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.722 mmol, 0.101 mL | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide | 18 mg, 10.8% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C2(CC2)C(=O)N)CC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCN(CC2)C)CC | C41H53N7O3
